US07915443B2
Methyl 3-[4-(S-methylsulfonimidoyl)phenyl]propanoate
Methyl 3-{4-[S-methyl-N-(trifluoroacetyl)sulfonimidoyl]phenyl}propanoate (0.200 g, 0.653 mmol) was dissolved in MeOH (3 mL). K2CO3 (0.450 g, 3.27 mmol) was added to the solution, and the resulting suspension was allowed to stir for 5 minutes. The suspension was filtered and the filtrate was concentrated. The residue was dissolved in EtOAc and dried over anhydrous anhydrous Na2SO4(s) to give the title compound (0.147 g, 93%).

reactant | Methyl 3-{4-[S-methyl-N-(trifluoroacetyl)sulfonimidoyl]phenyl}propanoate | 0.653 mmol, 0.200 g | CS(=O)(=NC(C(F)(F)F)=O)C1=CC=C(C=C1)CCC(=O)OC | C13H14F3NO4S
reactant | K2CO3 | 3.27 mmol, 0.450 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 3 mL | CO | CH4O
product | Methyl 3-[4-(S-methylsulfonimidoyl)phenyl]propanoate | 0.147 g, 93% | CS(=O)(=N)C1=CC=C(C=C1)CCC(=O)OC | C11H15NO3S
